US07858613B2
6,6-Bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one
To a solution of 6,7,8,9-tetrahydrobenzocyclohepten-5-one (50 g, 312 mmol) in 875 ml of tetrahydrofuran were added, at room temperature, potassium carbonate (4.4 g) and formalin solution (175 ml; 36% solution in water). The reaction mixture was stirred at 40° C. for 32 hours. The mixture was then diluted with 900 ml of water, and the phases were separated and extracted with ethyl acetate. The crude product was purified by column chromatography on silica gel (eluent: 9:1 hexane/ethyl acetate and 1:1 hexane/ethyl acetate). This gave 6,6-bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one (colorless oil; 61.3 g; 89%).

reactant | 6,7,8,9-tetrahydrobenzocyclohepten-5-one | 312 mmol, 50 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | formalin | 175 ml | C=O | CH2O
solvent | tetrahydrofuran | 875 ml | O1CCCC1 | C4H8O
solvent | water | 900 ml | O | H2O
product | 6,6-Bis(hydroxymethyl)-6,7,8,9-tetrahydrobenzocyclohepten-5-one | OCC1(C(C2=C(CCC1)C=CC=C2)=O)CO | C13H16O3
